US04474964
In 15 ml of absolute ethyl alcohol was dissolved 1.28 g of 1-(2-piperidinoethyl)-3-aminoindazole and into the solution was introduced dried hydrogen chloride gas under cooling with ice. Anhydrous diethyl ether was added to the solution to separate crystals. Then the crystals were obtained by filtration and dried to give 1-(2-piperidinoethyl)-3-aminoindazole dihydrochloride.

reactant | 1-(2-piperidinoethyl)-3-aminoindazole | 1.28 g | N1(CCCCC1)CCN1N=C(C2=CC=CC=C12)N | C14H20N4
reactant | hydrogen chloride | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl alcohol | 15 ml | C(C)O | C2H6O
product | 1-(2-piperidinoethyl)-3-aminoindazole dihydrochloride | Cl.Cl.N1(CCCCC1)CCN1N=C(C2=CC=CC=C12)N | InChI=1S/C14H20N4.2ClH/c15-14-12-6-2-3-7-13(12)18(16-14)11-10-17-8-4-1-5-9-17;;/h2-3,6-7H,1,4-5,8-11H2,(H2,15,16);2*1H
